US09029560B2
Preparation of benzyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzylcarbamate (C13)
In a 500 mL round bottomed flask, equipped with a magnetic stir bar, benzyl 4-bromobenzylcarbamate (C12) (14.3 g, 44.7 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (12.5 g, 49.1 mmol), and potassium acetate (8.77 g, 89.0 mmol) were diluted with dioxane (170 mL). The suspension was sparged with nitrogen gas for 10 minutes. The [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (1.63 g, 2.23 mmol) was added as a solid. The flask was placed under nitrogen atmosphere and the reaction mixture was warmed to an internal temperature of 70° C. for 18 hours. The reaction mixture was cooled to room temperature, poured into a brine solution and extracted with ethyl acetate (3×250 mL). The combined organic layers were dried over anhydrous magnesium sulfate, filtered, and concentrated. The resulting residue was purified via flash column chromatography using 0-10% ethyl acetate/B, where B=1:1 dichloromethane:hexanes, as eluent to afford the title compound as an orange solid (11.8 g, 69%): 1H NMR (400 MHz, DMSO-d6) δ 7.87 (t, J=6.2 Hz, 1H), 7.71-7.60 (m, 2H), 7.43-7.24 (m, 7H), 5.06 (s, 2H), 4.24 (d, J=6.2 Hz, 2H), 1.29 (s, 12H); 13C NMR (101 MHz, DMSO-d6) δ 156.35, 143.18, 137.12, 134.45, 128.31, 127.69, 126.38, 83.51, 66.32, 65.37, 64.89, 43.83, 24.62; ESIMS m/z 368 ([M+H]+).

reactant | benzyl 4-bromobenzylcarbamate | 44.7 mmol, 14.3 g | BrC1=CC=C(CNC(OCC2=CC=CC=C2)=O)C=C1 | C15H14BrNO2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 49.1 mmol, 12.5 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 89.0 mmol, 8.77 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 170 mL | O1CCOCC1 | C4H8O2
solvent | brine | [Cl-].[Na+].O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 2.23 mmol, 1.63 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | benzyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzylcarbamate | 11.8 g, 69% | CC1(OB(OC1(C)C)C1=CC=C(CNC(OCC2=CC=CC=C2)=O)C=C1)C | C21H26BNO4
